US06204279B1
(B) N-Boc-D-Homophenylalaninal
A cold (−40° C.) solution of lithium aluminum hydride (25.2 mL of a 1M solution) in tetrahydrofiran (165 mL), under nitrogen, is treated with a solution of N-Boc-D-homophenylalanine methoxymethylamide (6.76 g) in tetrahydrofuran (20 mL) at such a rate as to keep the temperature between −36 to −38° C. After the addition, the temperature is allowed to rise to 7° C. after which the reaction mixture is cooled to −35° C. The mixture is quenched with 2.75 M KHSO4 solution and the mixture is stirred for 1 h while warming to 25 ° C. The aqueous layer is separated and extracted thrice with ether. The combined organics are washed successively thrice with 10% citric acid, water, saturated bicarbonate and brine, dried (MgSO4) and concentrated. The viscous clear residue solidifies under vacuum to give the title compound (5.32 g): 1H NMR (400 MHz, CDCl3) δ1.47 (s, 9H), 1.88 (m, 1H), 2.22 (m, 1H), 2.71 (t, J=7.6 Hz, 2H), 4.24 (m, 1H), 5.18 (bd, 1H, NH), 7.20 (m, 3H), 7.27 (m, 2H), and 9.54 (s, 1H).

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-Boc-D-homophenylalanine methoxymethylamide | 6.76 g | COCNC([C@H](NC(=O)OC(C)(C)C)CCC1=CC=CC=C1)=O | C17H26N2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-Boc-D-Homophenylalaninal | 5.32 g | C(=O)(OC(C)(C)C)N[C@H](CCC1=CC=CC=C1)C=O | C15H21NO3
